US07491732B2
III-80: Preparation of N2-(3-Aminosulfonylphenyl)-5-fluoro-N4-[4-(1-oxido-4-pyridylmethyl)phenyl]-2,4-pyrimidinediamine
A mixture of N2-(3-Aminosulfonylphenyl)-5-fluoro-N4-[4-(4-pyridylmethyl)phenyl]-2,4-pyrimidinediamine (50 mg) and methyltrioxorhenium (VII) (5 mg) in THF (15 mL) was treated with 30% aq. H2O2 (23 μL). After 24 h stirring, 30% aq. H2O2 (23 μL) was added and stirred for 24 h. The reaction mixture was filtered through Celite, washed the bed with methanol and concentrated. The residue was purified by HPLC yielded 10 mg of desired product. 1H NMR (DMSO d6, 300 MHz): δ 9.47 (s, 1H), 9.35 (s, 1H), 8.10 (m, 4H), 7.92 (m, 1H), 7.73 (d, 2H, J=8.4 Hz), 7.32-7.18 (m, 8H), 3.91 (s, 2H); LCMS (m/z): 467 (MH+).

reactant | N2-(3-Aminosulfonylphenyl)-5-fluoro-N4-[4-(4-pyridylmethyl)phenyl]-2,4-pyrimidinediamine | 50 mg | NS(=O)(=O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC1=CC=NC=C1)F | C22H19FN6O2S
reactant | H2O2 | 23 μL | OO | H2O2
reactant | H2O2 | 23 μL | OO | H2O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | methyltrioxorhenium (VII) | 5 mg | C[Re](=O)(=O)=O
product | N2-(3-Aminosulfonylphenyl)-5-fluoro-N4-[4-(1-oxido-4-pyridylmethyl)phenyl]-2,4-pyrimidinediamine | 10 mg | NS(=O)(=O)C=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)CC1=CC=[N+](C=C1)[O-])F | C22H19FN6O3S
